US07968746B2
Oxidation as described in protocol B, using 64.2 mg (0.183 mmol) of 6-hydroxy-N-(6-hydroxyhexyl)-2,5,7,8-tetramethylchroman-2-carboxamide and 230 mg CAN (0.419 mmol) yielded 40 mg of 2-hydroxy-N-(6-hydroxyhexyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide as a yellow oil.

reactant | 6-hydroxy-N-(6-hydroxyhexyl)-2,5,7,8-tetramethylchroman-2-carboxamide | 0.183 mmol, 64.2 mg | OC=1C(=C2CCC(OC2=C(C1C)C)(C(=O)NCCCCCCO)C)C | C20H31NO4
reactant | CAN | 0.419 mmol, 230 mg | O=[N+]([O-])[O-].[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[O-][N+]([O-])=O.[Ce+4].[NH4+].[NH4+]
product | 2-hydroxy-N-(6-hydroxyhexyl)-2-methyl-4-(2,4,5-trimethyl-3,6-dioxocyclohexa-1,4-dienyl)butanamide | 40 mg | OC(C(=O)NCCCCCCO)(CCC1=C(C(C(=C(C1=O)C)C)=O)C)C | C20H31NO5
